US07902191B2
[6-(4-methyl-piperazin-1-yl)-5,6,7,8-tetrahydro-naphthalen-2-yl]-(2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone is prepared from 6-(4-methyl-piperazin-1-yl)-5,6,7,8-tetrahydro-naphthalene-2-carboxylic acid dihydrochloride and (R)-(+)-1-(2-pyrrolidinylmethyl)-pyrrolidine in a manner substantially analogous to Procedure C (See herein Example 13). Observed mass 411 (M++1).

reactant | 6-(4-methyl-piperazin-1-yl)-5,6,7,8-tetrahydro-naphthalene-2-carboxylic acid dihydrochloride | Cl.Cl.CN1CCN(CC1)C1CC=2C=CC(=CC2CC1)C(=O)O
reactant | (R)-(+)-1-(2-pyrrolidinylmethyl)-pyrrolidine | N1[C@H](CCC1)CN1CCCC1 | C9H18N2
product | [6-(4-methyl-piperazin-1-yl)-5,6,7,8-tetrahydro-naphthalen-2-yl]-(2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | CN1CCN(CC1)C1CC=2C=CC(=CC2CC1)C(=O)N1C(CCC1)CN1CCCC1 | C25H38N4O
